US07550598B2
(Z)-3-methyl-4-(4-(phenylthio)quinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one
(Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one (0.05 g, 0.19 mmol) and thiophenol (Aldrich) (0.04 mL, 0.38 mmol) were dissolved in ethanol (2 mL). The reaction mixture was heated to 180° C. using a microwave reactor for 20 minutes. The solid was precipitated upon cooling. The material was filtered and washed with a minimal amount of ethanol, and then dried in vacuo. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.86 (s, 3H) 6.77 (s, 1H) 7.56 (t, J=7.58 Hz, 1H) 7.62 (s, 1H) 7.63 (d, J=2.53 Hz, 2H) 7.71-7.76 (m, 2H) 7.79 (t, J=7.58 Hz, 1H) 7.84-7.89 (m, 1H) 8.08 (d, J=8.34 Hz, 1H); ESI-MS: m/z calc'd for C19H15N3OS 333.09. found 334.2 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | 0.19 mmol, 0.05 g | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C13H10ClN3O
reactant | thiophenol | 0.38 mmol, 0.04 mL | C1(=CC=CC=C1)S | C6H6S
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (Z)-3-methyl-4-(4-(phenylthio)quinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one | CC/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=CC=C1)=O | C19H15N3OS
